US03985885
2. 5-Amino-2-(3-pyridinyl)benzothiazole
5-Nitro-2-(3-pyridinyl)benzothiazole 11.2 g, 0.044 mole, is dissolved in 45 cc of concentrated HCl. SnCl2, 35 g, in 45 cc of concentrated HCl is added, and the resulting mixture heated for 1 hour on a steam bath. After cooling, the precipitate is filtered, washed in cold HCl and neutralized in cold NaOh solution. The amine is filtered, washed with H2O and dried to yield 8.0 g of product m.p. 189°-196°.

reactant | 5-Nitro-2-(3-pyridinyl)benzothiazole | 0.044 mole, 11.2 g | [N+](=O)([O-])C=1C=CC2=C(N=C(S2)C=2C=NC=CC2)C1 | C12H7N3O2S
reactant | SnCl2 | Cl[Sn]Cl
solvent | HCl | 45 cc | Cl | ClH
solvent | HCl | 45 cc | Cl | ClH
product | 5-Amino-2-(3-pyridinyl)benzothiazole | 8.0 g | NC=1C=CC2=C(N=C(S2)C=2C=NC=CC2)C1 | C12H9N3S
